US08202873B2
N-{4-[4-(1-Ethyl-5-methyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-benzyl}-acetamide hydrochloride
Combine 3′-chloro-4-(1-ethyl-5-methyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.300 g, 0.935 mmol), potassium carbonate (0.310 g, 2.24 mmol), (4-acetamidomethylphenyl)boronic acid (0.216 g, 1.12 mmol), and tetrakis(triphenylphosphine)palladium(0) (0.011 g, 0.009 mmol) in N,N-dimethylacetamide (1.9 mL). Add water (940 μL), and reflux reaction for 6 hr. Add DCM and wash with water. Extract water layer three times with DCM. Dry combined organics (magnesium sulfate) and purify (silica gel chromatography, eluting with 50:50 to 100:0 ethyl acetate:hexanes then 10:90 to 20:80 methanol:ethyl acetate), to give the free base of the title compound (384 mg, 95%). Dissolve the free base (0.381 g, 0.880 mmol) in acetonitrile (1.06 mL) and add aq. 1 N HCl solution (1.06 mL, 1.06 mmol). Shake for 15 min. at ambient temperature. Freeze dry to give the title compound (416 mg, 100%). MS (ES): m/z=434 [M+H]+.

reactant | 3′-chloro-4-(1-ethyl-5-methyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.935 mmol, 0.300 g | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1C)CC | C15H21ClN6
reactant | potassium carbonate | 2.24 mmol, 0.310 g | C([O-])([O-])=O.[K+].[K+]
reactant | (4-acetamidomethylphenyl)boronic acid | 1.12 mmol, 0.216 g | C(C)(=O)NCC1=CC=C(C=C1)B(O)O | C9H12BNO3
reactant | water | 940 μL | O | H2O
solvent | N,N-dimethylacetamide | 1.9 mL | CN(C(C)=O)C | C4H9NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.009 mmol, 0.011 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-{4-[4-(1-Ethyl-5-methyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-benzyl}-acetamide hydrochloride | 384 mg, 95% | Cl.C(C)N1N=CC(=C1C)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(CNC(C)=O)C=C1 | InChI=1S/C24H31N7O.ClH/c1-4-31-18(2)22(16-28-31)17-29-11-13-30(14-12-29)24-23(25-9-10-26-24)21-7-5-20(6-8-21)15-27-19(3)32;/h5-10,16H,4,11-15,17H2,1-3H3,(H,27,32);1H
